* source LASERDRIVER
X_U1         N00104 N00294 N00279 N00104 0 TLV62565
V_V1         N00104 0 3.3
C_C1         0 N00104  4.7u  TC=0,0 
L_L1         N00279 N00283  4.4uH  
R_R1         N00294 N00283  240k TC=0,0 
R_R2         0 N00294  120k TC=0,0 
C_C2         0 N00283  10u  TC=0,0 
V_V2         N00605 0 5
R_R3         N00605 N00294  1k TC=0,0 
